US04412856
To 142 g (0.45 mole) of 1-(4'-iodophenoxy)-2-diethylaminoethane, 1.2 liters of triethylamine and 37.8 g (0.45 mole) of 3-methyl-1-butin-3-ol are added, under nitrogen, 3.4 g of the palladium complex PdCl2 [P(C6H5)3 ]2 and 1.9 g of copper(I) iodide. After the exothermic reaction has subsided, the reaction mixture is stirred for 15 hours at room temperature, then filtered, and the solution is evaporated in vacuo to dryness. The oily residue crystallises immediately. The product is dried in vacuo at 40° C., affording 123 g (99%) of 1-(3-hydroxy-3-methyl-1-butyn-1-yl)-4-(2-diethylaminoethoxy)benzene with a melting point of 64° C.

reactant | 1-(4'-iodophenoxy)-2-diethylaminoethane | 0.45 mole, 142 g | IC1=CC=C(OCCN(CC)CC)C=C1 | C12H18INO
reactant | 3-methyl-1-butin-3-ol | 0.45 mole, 37.8 g | CC(C#C)(C)O | C5H8O
reactant | P(C6H5)3 | P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium | 3.4 g | [Pd] | Pd
catalyst | copper(I) iodide | 1.9 g | [Cu]I
solvent | triethylamine | 1.2 liters | C(C)N(CC)CC | C6H15N
product | 1-(3-hydroxy-3-methyl-1-butyn-1-yl)-4-(2-diethylaminoethoxy)benzene | 123 g, 99% | OC(C#CC1=CC=C(C=C1)OCCN(CC)CC)(C)C | C17H25NO2
